US08357706B2
Prepared using General Procedure 1. To (R)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate INT-52 (15.0 g, 58.2 mmol) in EtOH (100 mL) was added hydroxylamine hydrochloride (12.1 g, 174.2 mmol) and TEA (17.6 mL, 174.2 mmol) and the reaction mixture was heated at 85° C. for 2 h. The solvents were removed and the resulting white solid was partitioned between water and DCM. The organic layers were dried over Na2SO4, concentrated, and recrystallized from isopropanol (50 mL) to afford 14.4 g (85%) of (R)-tert-butyl 4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-ylcarbamate INT-54 as white crystalline solid. LCMS-ESI (m/z) calculated for C15H21N3O3: 291.4; found 292.1 [M+H]+, tR=2.04 min. 1H NMR (400 MHz, DMSO) δ 9.53 (s, 1H), 7.38-7.32 (m, 1H), 7.32-7.12 (m, 3H), 5.68 (s, 2H), 4.97 (q, J=8.5, 1H), 3.07 (ddd, J=16.6, 8.7, 2.6, 1H), 2.86 (dt, J=16.8, 8.4, 1H), 2.30 (ddd, J=12.6, 7.6, 3.6, 1H), 1.75 (dq, J=12.3, 9.0, 1H), 1.44 (s, 9H).

reactant | (R)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate | C(#N)C1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O | C15H18N2O2
reactant | hydroxylamine hydrochloride | 174.2 mmol, 12.1 g | Cl.NO
solvent | EtOH | 100 mL | CCO | C2H6O
product | (R)-tert-butyl 4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-ylcarbamate | 14.4 g, 85% | ONC(=N)C1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O | C15H21N3O3
